* BFR106 SPICE MODEL
* PHILIPS SEMICONDUCTORS
* Date : September 1995
*
* PACKAGE : SOT23 DIE MODEL : BFR96
* 1: COLLECTOR; 2: BASE; 3: EMITTER;
.SUBCKT BFR106 1 2 3
Q1 6 5 7 7 BFR96
* SOT23 parasitic model
               Lb  4 5 .4n
               Le  7 8 .83n
               L1  2 4 .35n
               L2  1 6 .17n
               L3  3 8 .35n
              Ccb  4 6 71f
              Cbe  4 8 2f
              Cce  6 7 71f
*
* PHILIPS SEMICONDUCTORS                                         Version:   2.0
* Filename:    BFR96.PRM                                         Date: May 1992
*
.MODEL  BFR96   NPN
+(
+              IS = 2.44463E-015
+              BF = 9.80000E+001
+              NF = 9.87224E-001
+             VAF = 2.66948E+001
+             IKF = 2.00000E+000
+             ISE = 3.95722E-014
+              NE = 1.41333E+000
+              BR = 8.53970E+001
+              NR = 9.78180E-001
+             VAR = 4.69684E+000
+             IKR = 3.08736E-002
+             ISC = 3.07780E-015
+              NC = 1.12019E+000
+              RB = 3.00000E+000
+             IRB = 1.00000E-006
+             RBM = 3.00000E+000
+              RE = 7.17149E-002
+              RC = 6.62000E-001
+              EG = 1.11000E+000
+             XTI = 3.00000E+000
+             CJE = 5.15057E-012
+             VJE = 6.00000E-001
+             MJE = 3.77782E-001
+              TF = 1.61902E-011
+             XTF = 7.50000E+001
+             VTF = 2.83687E-002
+             ITF = 2.48030E-001
+             CJC = 2.38386E-012
+             VJC = 2.98165E-001
+             MJC = 2.14438E-001
+)
.ENDS